*
* NGSPICE simulation script
* T1
*

* forces current values to be saved
.options savecurrents

* Independent Power Sources
Va 1 4 DC 5.19832384287 
Id 8 6 DC 1.04739543259m

* Resistors
R1 1 2 1.03258022265k
R2 2 3 2.05854281116k 
R3 2 5 3.05658918951k 
R4 4 5 4.12083818633k 
R5 5 6 3.10223748153k 
R6 7 9 2.09909352125k 
R7 8 7 1.01569886691k

* Ground
VGround 4 gnd 0V

* Test Voltage
V3 gnd 9 0V

* Linear dependent Sources
Gb 6 3 (2,5) 7.07448059081m
Hc 5 8 V3 8.22345657857k

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
print v(2,5)
print v(5,8)
echo  "op_END"

quit
.endc

.end

